US06124323
4-Benzyl-1-(2-(3-hydroxynaphth-6-oxy)ethyl)piperidine
The title compound was prepared from 7-benzyloxy-naphthalen-2-ol (1.00 g, 4.00 mmol), 1-(4-benzyl-piperidin-1-yl)-2-bromo-ethanone (1.20 g, 4.05 mmol) and potassium carbonate (1.10 g, 7.96 mmol) in tetrahydofuran (40 ml) in three steps as a solid, mp 159-160° C. Analysis calculated for C24H27NO2 ·0.16H2O: C, 79.11; H, 7.56; N, 3.85. Found: C, 79.11; H. 7.63; N, 3.83.

reactant | 7-benzyloxy-naphthalen-2-ol | 4.00 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=CC2=C1)O | C17H14O2
reactant | 1-(4-benzyl-piperidin-1-yl)-2-bromo-ethanone | 4.05 mmol, 1.20 g | C(C1=CC=CC=C1)C1CCN(CC1)C(CBr)=O | C14H18BrNO
reactant | potassium carbonate | 7.96 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-Benzyl-1-(2-(3-hydroxynaphth-6-oxy)ethyl)piperidine | C(C1=CC=CC=C1)C1CCN(CC1)CCOC=1C=C2C=C(C=CC2=CC1)O | C24H27NO2
